US05145993
Preparation of (6-methoxy-2-naphthyl)-acetyl chloride (IV)
To a solution dissolved 21.3 g (0.1 mol) of (6-methoxy-2-naphthyl)acetic acid in tetrahydrofuran anhydride (200 ml) was slowly added 19.0 g (0.15 mol) of oxalyl chloride and 1 ml of dimethylformamic at 0° C. After stirring at the room temperature for 15 hours, solvent and an excess of oxalyl chloride were removed to nearly quantitatively yield (6-methoxy-2-naphthyl)-acetyl chloride as product.

reactant | (6-methoxy-2-naphthyl)acetic acid | 0.1 mol, 21.3 g | COC=1C=C2C=CC(=CC2=CC1)CC(=O)O | C13H12O3
reactant | oxalyl chloride | 0.15 mol, 19.0 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | (6-methoxy-2-naphthyl)-acetyl chloride | COC=1C=C2C=CC(=CC2=CC1)CC(=O)Cl | C13H11ClO2
